US05932595
The product from Example 20A, N-tert-butoxy-2-[4-(4-phenoxyphenylsulfonyl)-1-(ethoxycarbonylmethyl)piperidin-4-yl]-acetamide, was dissolved in dichloroethane (10 ml), cooled to 0° C., and saturated with hydrochloric acid gas. The reaction vessel was then sealed and the solution stirred for two days at 25° C. Solvent was removed from the reaction mixture under reduced pressure, and the residue purified by preparative TLC, eluting with 10% methanol/methylene chloride, to give N-hydroxy-2-[4-(4-phenoxyphenylsulfonyl)-1-(ethoxycarbonylmethyl)piperidin-4-yl]-acetamide (420 mg), m/e=477.1 (MH+, FABMS).

reactant | N-tert-butoxy-2-[4-(4-phenoxyphenylsulfonyl)-1-(ethoxycarbonylmethyl)piperidin-4-yl]-acetamide | C(C)(C)(C)ONC(CC1(CCN(CC1)CC(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C27H36N2O7S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | N-hydroxy-2-[4-(4-phenoxyphenylsulfonyl)-1-(ethoxycarbonylmethyl)piperidin-4-yl]-acetamide | 420 mg | ONC(CC1(CCN(CC1)CC(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C23H28N2O7S
